US05196454
5-Acetylamino-2-(N-benzyl-N-methyl-amino)-tetralinehydrochloride
Starting from 2.03 g (0.01 mol) of 5-acetylamino-2-tetralone and 4.37 g (0.03 mol) of N-benzyl-methylaminehydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 2.0 g (58.1% of theory) and with a melting point of 243° C. which does not change after recrystallisation from methanol/ether.

reactant | 5-acetylamino-2-tetralone | 0.01 mol, 2.03 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | N-benzyl-methylaminehydrochloride | 0.03 mol, 4.37 g | Cl.C(C1=CC=CC=C1)NC
product | 5-Acetylamino-2-(N-benzyl-N-methyl-amino)-tetralinehydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)N(C)CC1=CC=CC=C1 | InChI=1S/C20H24N2O.ClH/c1-15(23)21-20-10-6-9-17-13-18(11-12-19(17)20)22(2)14-16-7-4-3-5-8-16;/h3-10,18H,11-14H2,1-2H3,(H,21,23);1H
